US07504392B2
d) 6-Ethoxy-1,2,3,4-tetrahydro-isoquinoline
A stirred mixture of 2-(3-ethoxy-phenyl)-ethylamine (7.0 g, 42 mmol) and 37% aqueous formaldehyde solution (3.5 mL) was heated at 110° C. for 30 minutes. The stirring was stopped and the upper water layer was removed by pipette. To the resulting mixture water (5.25 mL) and concentrated HCl (10.5 mL) were added followed by heating 100° C. for 30 minutes. After allowing to cool to room temperature the mixture was evaporated to dryness and recrystallised from acetone yielding the subtitled compound as a cream solid (2.73 g). MH+ 178. 1H NMR δ (DMSO) 1.27-1.35 (3H, t), 2.88-3.03 (2H, t), 3.18-3.40 (2H, br, t), 3.95-4.08 (2H, q), 4.10-4.22 (2H, m), 6.74-6.85 (2H, m), 7.05-7.15 (1H, m), 9.33-9.55 (2H, br.s).

reactant | 2-(3-ethoxy-phenyl)-ethylamine | 42 mmol, 7.0 g | C(C)OC=1C=C(C=CC1)CCN | C10H15NO
reactant | formaldehyde | 3.5 mL | C=O | CH2O
product | 6-Ethoxy-1,2,3,4-tetrahydro-isoquinoline | C(C)OC=1C=C2CCNCC2=CC1 | C11H15NO
